US08877975B2
(b) Synthesis of 3-(aminomethyl)-3-(3,4-dichlorophenyl)cyclopentanol
A mixture of 1-(3,4-dichlorophenyl)cyclopent-3-enecarbonitrile (119 mg, 0.500 mmol) and borane-THF (2 mL, 1M in THF, 2 eq) was heated at 65° C. for 2 hours. The reaction was cautiously quenched with ethanol (0.5 mL), sodium hydroxide (lmL, 5M aqueous) and stirred for two hours. It was then extracted with MTBE and evaporated. The residue was purified by HPLC to give cis 167 and trans 167.

reactant | 1-(3,4-dichlorophenyl)cyclopent-3-enecarbonitrile | 0.500 mmol, 119 mg | ClC=1C=C(C=CC1Cl)C1(CC=CC1)C#N | C12H9Cl2N
reactant | borane THF | 1M, 2 mL, 2 eq | B.C1CCOC1
product | 3-(aminomethyl)-3-(3,4-dichlorophenyl)cyclopentanol | NCC1(CC(CC1)O)C1=CC(=C(C=C1)Cl)Cl | C12H15Cl2NO
